US07271274B2
A 1 L round bottom flask equipped with a nitrogen adapter, temperature probe and addition funnel was charged with 9.3 g (58 mmol, 1.3 eq) of (s)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-ethanol (Ex-10A), 500 mL of anhydrous THF, 25.6 g (98.3 mmol, 2.2 eq) of triphenylphosphine and 23.1 g (44.7 mmol, 1 eq) of probucol. The reaction mixture was cooled to 0° C. with an ice bath, 14.0 mL (89.4 mmol, 2.0 eq) of diethyl azodicarboxylate was charged to the addition funnel and then added dropwise to the reaction mixture. The dark reaction mixture was warmed to ambient temperature and stirred for 18 hours. The reaction mixture concentrated under reduced pressure and the residue was purified by silica gel chromatography (2% EtOAc/hexanes gradient to 5% EtOAc/hexanes) to yield 8.2 g of 2,6-di-tert-butyl-4-(1-{3,5-di-tert-butyl-4-[2-(2,2-dimethyl-[1,3]dioxolan-4(S)-yl)-ethoxy]-phenylsulfanyl}-1-methyl-ethylsulfanyl)-phenol as a white solid, mp 44–46° C. 1H NMR (300 MHz, CDCl3) δ: 7.56 (s, 2H), 7.47 (s, 2H), 5.38 (s, 1H), 4.61 (dd, J=9.17 and 3.75 Hz, 1H), 3.92–4.00 (m, 1H), 3.79–3.87 (m, 1H), 2.50–2.61 (m, 1H), 2.15–2.27 (m, 1H), 1.47 (s, 6H), 1.46 (s, 18H), 1.45 (s, 18H). HRMS (EI+) m/z+Na: calc. 681.3623; found 681.3619.

reactant | (s)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-ethanol | 58 mmol, 9.3 g, 1.3 eq | CC1(OC([C@@H](O1)CCO)=O)C | C7H12O4
reactant | triphenylphosphine | 98.3 mmol, 25.6 g, 2.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | probucol | 44.7 mmol, 23.1 g, 1 eq | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C)(C)SC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C31H48O2S2
reactant | diethyl azodicarboxylate | 89.4 mmol, 14.0 mL, 2.0 eq | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2,6-di-tert-butyl-4-(1-{3,5-di-tert-butyl-4-[2-(2,2-dimethyl-[1,3]dioxolan-4(S)-yl)-ethoxy]-phenylsulfanyl}-1-methyl-ethylsulfanyl)-phenol | 8.2 g | C(C)(C)(C)C1=C(C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)OCC[C@@H]1OC(OC1)(C)C)C(C)(C)C)C(C)(C)C)O | C38H60O4S2
